US07727988B2
5-(2-chloro-5-fluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E45)
5-(2-chloro-5-fluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was dissolved in dioxane and treated with 4N HCl in dioxane (2 eq), to give the title compound as a white powder.

reactant | 5-(2-chloro-5-fluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | ClC1=NC=C(C=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)F | C24H21ClF4N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 5-(2-chloro-5-fluoro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | Cl.Cl.ClC1=NC=C(C=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)F | InChI=1S/C24H21ClF4N4O2.2ClH/c25-20-18(8-17(26)10-30-20)19-12-33(22(35)31-21(19)34)7-1-6-32-11-16-9-23(16,13-32)14-2-4-15(5-3-14)24(27,28)29;;/h2-5,8,10,12,16H,1,6-7,9,11,13H2,(H,31,34,35);2*1H/t16-,23+;;/m0../s1
